US05519051
30 μl of Jones reagent was added dropwise at 0° C. to a mixture of 10 mg of 16-oxaandrost-5-en-3β-ol and 0.5 ml of acetone, and the mixture was stirred at room temperature for 30 minutes. 2-propanol and 5% aqueous sodium bicarbonate solution were added to the reaction mixture and the insoluble matters were removed by filtration. The filtrate was concentrated under reduced pressure, water was added, and the product was extracted with ethyl acetate. The extract was washed with saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled out, and the resultant crude product was purified by TLC [developing solvent; chloroform acetone (19:1)] to obtain 3 mg of 16-oxaandrost-4-ene-3,6-dione.

reactant | Jones reagent | 30 μl | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 16-oxaandrost-5-en-3β-ol | 10 mg | C[C@@]12COC[C@H]1[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C18H28O2
reactant | acetone | 0.5 ml | CC(=O)C | C3H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-propanol | CC(C)O | C3H8O
product | 16-oxaandrost-4-ene-3,6-dione | 3 mg | C[C@@]12COC[C@H]1[C@@H]1CC(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C18H24O3
